US06927303B2
According to the similar procedure in Synthesis Example 1, by using 5-amino-2-chlorobenzoic acid (1.02 g, 5.94 mmole) (ACROS, 32525-5000), DMF (50 ml) and 2,3,5,6-tetrafluoro-4-trifloromethylbenzyl bromide (1.16 g, 6.99 mmole), 2.04 g (85.5% yield) of 2-chloro-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid was obtained as a pale brown solid.

reactant | 5-amino-2-chlorobenzoic acid | 5.94 mmole, 1.02 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | 2,3,5,6-tetrafluoro-4-trifloromethylbenzyl bromide | 6.99 mmole, 1.16 g | FC1=C(CBr)C(=C(C(=C1F)C(F)(F)F)F)F | C8H2BrF7
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-chloro-5-(2,3,5,6-tetrafluoro-4-trifluoromethylbenzylamino)benzoic acid | 2.04 g, 85.5% yield | ClC1=C(C(=O)O)C=C(C=C1)NCC1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F | C15H7ClF7NO2
